US06472227B1
5-(1-Methylbutyl)-5-formylmethyl Barbituric Acid
To a solution of sodium secobarbital (5.30 g, 22.2 mmol) in methanol was passed a stream of ozone until the solution turned a blue color. After excess ozone was removed by passing nitrogen through the reaction dimethyl sulfide (14 mL) was added. The reaction was stirred at room temperature overnight before solvents were removed on a rotovap. The aldehyde was then purified on silica prep plates using ethyl acetate:hexanes (1:1).

reactant | sodium secobarbital | 22.2 mmol, 5.30 g | CCCC(C)C1(C(=O)NC(=O)[N-]C1=O)CC=C.[Na+]
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | CO | CH4O
product | 5-(1-Methylbutyl)-5-formylmethyl Barbituric Acid | CC(CCC)C1(C(NC(NC1=O)=O)=O)CC=O | C11H16N2O4
